### PR TITLE
feat: update algebra tower defs, finish proofs for binary tower fields

### PR DESCRIPTION
**Pull request by chung-thai-nguyen**
[x] Finish proofs for binary tower fields in both abstract & computable versions

---

> [!NOTE]
> Introduce a new AlgebraTower framework, refactor abstract BinaryTower to use it with generalized trace/irreducibility results, and finish the concrete binary tower implementation with operations, field instances, algebra maps, bases, and equivalence.
> 
> - **Core Algebra Framework**:
>   - Add `ArkLib.Data.RingTheory.AlgebraTower` defining `AlgebraTower` and `AlgebraTowerEquiv` with coherence and scalar tower instances.
>   - Remove legacy `TowerOfAlgebra`; update imports (`ArkLib.lean`).
> - **Binary Tower (Abstract)**:
>   - Refactor to use `AlgebraTower`; define `towerAlgebraMap`, algebra instances, and related lemmas.
>   - Generalize and prove trace map and irreducibility for `definingPoly`; add `CharP` helper.
>   - Clean up `BTField` API (`Z`, `poly`, `powerBasis`, `join/split`, multilinear basis) and associated proofs.
> - **Binary Tower (Concrete/Computable)**:
>   - Implement arithmetic (`add`, `mul`, `inv`, `pow`) over `BitVec`, and prove ring/division ring/field instances.
>   - Define `Z`, `join/split`, algebra maps between levels, and multilinear basis; prove distributivity/associativity/commutativity lemmas.
>   - Show trace properties, irreducibility of `definingPoly`, and square/trace identities across levels.
>   - Construct tower equivalence between abstract `BTField` and `ConcreteBTField` with commuting algebra maps.
> 
> <sup>Written by [Cursor Bugbot](https://cursor.com/dashboard?tab=bugbot) for commit 38f1392a31ee2786a619e6707853e41ed74548c5. This will update automatically on new commits. Configure [here](https://cursor.com/dashboard?tab=bugbot).</sup>

### CODE REVIEW

File: ArkLib/Data/FieldTheory/BinaryField/Tower/Basic.lean [hunk 1]
```diff
@@ -1112,121 +874,363 @@ The power basis for `BTField (k+1)` over `BTField k` is {1, Z (k+1)}
...
+    powerBasis_dim]
+  exact natDegree_definingPoly (Z k)
+
+def join_via_add_smul {k : ℕ} (h_pos : k > 0) (hi_btf lo_btf : BTField (k - 1)) :
     BTField k := by
-  letI instAlgebra := binaryTowerOfAlgebra (l:=k-1) (r:=k) (h_le:=by omega)
+  letI instAlgebra := binaryAlgebraTower (l:=k-1) (r:=k) (h_le:=by omega)
   exact hi_btf • Z k + (algebraMap (BTField (k - 1)) (BTField k) lo_btf)
 
+notation "⋘" hi ", " lo "⋙" => join_via_add_smul (h_pos:=by omega) hi lo
```
Comment (quangvdao) [inline ArkLib/Data/FieldTheory/BinaryField/Tower/Basic.lean]: Can you make this scoped inside this namespace?

File: ArkLib/Data/RingTheory/AlgebraTower.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
+/-
+Copyright (c) 2025 ArkLib Contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Chung Thai Nguyen, Quang Dao
+-/
+
+import Mathlib
```
Comment (quangvdao) [inline ArkLib/Data/RingTheory/AlgebraTower.lean]: Can you not import all of Mathlib?

File: ArkLib/Data/FieldTheory/BinaryField/Tower/Impl.lean [hunk 3]
```diff
@@ -569,6 +527,52 @@ def join {k : ℕ} (h_pos : k > 0) (hi lo : ConcreteBTField (k - 1)) : ConcreteB
   rw [h_sum_two_same_pow2 (h_pos:=h_pos)] at res
   exact res
 
+notation "《" hi ", " lo "》" => join (h_pos:=by omega) hi lo
```
Comment (quangvdao) [inline ArkLib/Data/FieldTheory/BinaryField/Tower/Impl.lean]: Same here: make this scoped

Comment (chung-thai-nguyen) [reply ArkLib/Data/FieldTheory/BinaryField/Tower/Impl.lean]: done

File: ArkLib/Data/FieldTheory/BinaryField/Tower/Basic.lean [hunk 4]
```diff
@@ -852,36 +575,56 @@ def canonicalEmbedding (k : ℕ) : BTField k →+* BTField (k+1) :=
...
+  (f : BTField k →+* AdjoinRoot (poly m)) (x : BTField k) :
+  (cast (BTField.RingHom_eq_of_dest_AdjoinRoot_eq (k:=k) (m:=m)).symm f) x
+  = cast (BTField_succ_eq_adjoinRoot m) (f x) := by
+  rfl
+
 /--
 Auxiliary definition for `towerAlgebraMap` using structural recursion.
 This is easier to reason about in proofs than the `Nat.rec` version.
-TODO: migrate to Fin.dfoldl
+TODO : migrate to Fin.dfoldl
```
Comment (alexanderlhicks) [inline ArkLib/Data/FieldTheory/BinaryField/Tower/Basic.lean:610]: Is anything required to do this?

File: ArkLib/Data/FieldTheory/BinaryField/Tower/Impl.lean [hunk 5]
```diff
@@ -832,28 +844,43 @@ theorem split_sum_eq_sum_split {k : ℕ} (h_pos : k > 0) (x₀ x₁ : ConcreteBT
...
+  have h_eq := (eq_iff_split_eq h_pos (x₀ + x₁) x₂).mpr h_split_x₂
   exact h_eq
 
 theorem split_zero {k : ℕ} (h_pos : k > 0) : split h_pos zero = (zero, zero) := by
   rw [split]
   simp only [zero, BitVec.zero_eq, BitVec.extractLsb_ofNat, Nat.zero_mod, Nat.zero_shiftRight,
     Nat.sub_zero, Nat.shiftRight_zero, BitVec.dcast_bitvec_eq_zero]
 
+-- Special element Z_k for each level k
+def Z (k : ℕ) : ConcreteBTField k :=
```
Comment (alexanderlhicks) [inline ArkLib/Data/FieldTheory/BinaryField/Tower/Impl.lean:870]: This might benefit from a more descriptive docstring for documentation purposes (as with any def).

**Review by alexanderlhicks — APPROVED** [review]

**Comment by alexanderlhicks** [comment]
/review

External:
https://eprint.iacr.org/2023/1784.pdf
https://eprint.iacr.org/2024/504.pdf
https://eprint.iacr.org/2025/1015.pdf

Internal:
ArkLib/Data/FieldTheory
ArkLib/Data/RingTheory

Comments: Please review for accuracy and correctness of the formalization with respect to reference papers.
